US07250440B2
1-(4-benzyloxy-3-fluorophenyl)-2-methyl-1H-indole-3-carbaldehyde oxime
To a stirred solution of 1-(4-benzyloxy-3-fluorophenyl)-2-methyl-1H-indole-3-carbaldehyde (0.81 g, 2.3 mmol), hydroxylamine hydrochloride (0.25 g, 3.6 mmol) and methanol (25 mL) was added pyridine (1 mL). The reaction mixture was heated to reflux and held for 30 min. The mixture was cooled, the methanol removed by evaporation and the residue taken up in ethyl acetate/water. The product was extracted into ethyl acetate (2×50 mL), the ethyl acetate washed with water and brine and dried over MgSO4. The solvent was evaporated, and the crude product was purified by silica gel chromatography (25% ethyl acetate-hexanes) to provide a white solid (0.7 gr, 83%): mp 167-168° C.; 1H NMR (DMSO-d6): δ 2.32 (3H, s), 5.29 (2H, s), 6.99-7.01 (1H, m), 7.10-7.17 (2H, m), 7.25-7.28 (1H, m), 7.37-7.42 (1H, m), 7.43-7.49 (3H, m), 7.49-7.54 (2H, m), 8.01-8.04 (1H, m), 8.41 (1H, s), 10.67 (1H, s); MS m/z (M+H)+ 375: Anal. for C23H19FN2O2: Calc'd: C, 73.78; H, 5.11; N, 7.48. Found: C, 73.53; H, 5.06; N, 7.32

reactant | 1-(4-benzyloxy-3-fluorophenyl)-2-methyl-1H-indole-3-carbaldehyde | 2.3 mmol, 0.81 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)C)F | C23H18FNO2
reactant | hydroxylamine hydrochloride | 3.6 mmol, 0.25 g | Cl.NO
reactant | methanol | 25 mL | CO | CH4O
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4-benzyloxy-3-fluorophenyl)-2-methyl-1H-indole-3-carbaldehyde oxime | 0.7 gr, 83% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1C(=C(C2=CC=CC=C12)C=NO)C)F | C23H19FN2O2
